* ============================================================
* MOS current-source GROUND-TRUTH library  (transistor-level)
*
* The OBJECT we model is MOS-transistor-level (real current mirrors, run in
* SPICE); the DELIVERABLE model is behavioral -- exactly the LDO pattern
* (ground_truth/ldo_gt.cir is device-level, the fitted model is behavioral).
*
* Each subckt:  ports (vdd out), global 0 = gnd.
*   SINK   : NMOS output pulls current FROM `out` to gnd  (+I into the pin).
*   SOURCE : PMOS output pushes current FROM vdd into `out`.
* The testbench forces `out` to a compliance voltage and reads the delivered
* current -> Idc / I-V knee / Y(s) / dIout/dVdd (PSRR) / current-noise / Idc(T).
* Requires models nlv / plv at top level.  Device geometries are LITERALS
* (BSIM3 op convergence; cf. the ldo_v1 note); only bias knobs are {params}.
*
* >= 8 DELIBERATELY DIVERSE archetypes so a behavioral fit cannot overfit a
* single topology/operating point -- they span polarity, output impedance,
* compliance knee, current-noise, temperature law (PTAT vs CTAT), and PSRR
* sign.  This mirrors the LDO variants[] generalization set.
* ============================================================

* ---- V1: simple NMOS mirror SINK, ideal Iref, ~1.8uA -----------------------
*   low-ish rout (single ro), early knee, near-IDEAL PSRR (Iref supply-indep).
*   archetype for IBP_POLY_1P8U_VCO.
.subckt isrc_v1_nmos_simple vdd out iref=1.8u
Iref vdd nd DC {iref}
m1   nd  nd 0 0 nlv W=2u L=1u
mout out nd 0 0 nlv W=2u L=1u
.ends isrc_v1_nmos_simple

* ---- V2: cascode NMOS SINK, ideal Iref, ~1.0uA -----------------------------
*   very high rout (gm*ro*ro), HIGHER compliance (~2*Vov), near-ideal PSRR.
.subckt isrc_v2_nmos_cascode vdd out iref=1.0u
Iref vdd nc DC {iref}
mcd  nc nc nd 0 nlv W=2u L=1u        ; top diode  -> vcas=nc (~2Vgs)
m1   nd nd 0  0 nlv W=2u L=1u        ; bottom diode -> vbias=nd
mout od nd 0  0 nlv W=2u L=1u        ; output bottom device
mcas out nc od 0 nlv W=2u L=1u       ; cascode device (gate=nc)
.ends isrc_v2_nmos_cascode

* ---- V3: long-channel simple NMOS SINK, ideal Iref, ~0.8uA -----------------
*   L=4u -> high rout AND low compliance, LOW current-noise (big gate area).
*   distinct (rout, knee, noise) point from V1 at the same simple topology.
.subckt isrc_v3_nmos_long vdd out iref=0.8u
Iref vdd nd DC {iref}
m1   nd  nd 0 0 nlv W=8u L=4u
mout out nd 0 0 nlv W=8u L=4u
.ends isrc_v3_nmos_long

* ---- V4: simple PMOS mirror SOURCE, ideal Iref, ~1.0uA ---------------------
*   OPPOSITE polarity (sources into `out` from vdd); knee at HIGH out (out->vdd);
*   PMOS device -> different noise/temp; PSRR set by output ro to vdd.
.subckt isrc_v4_pmos_simple vdd out iref=1.0u
Iref np 0 DC {iref}
mp1 np  np  vdd vdd plv W=4u L=1u
mout out np vdd vdd plv W=4u L=1u
.ends isrc_v4_pmos_simple

* ---- V5: cascode PMOS SOURCE, ideal Iref, ~2.0uA ---------------------------
*   high-rout source; knee near out->vdd-2*Vov; PMOS cascode.
.subckt isrc_v5_pmos_cascode vdd out iref=2.0u
Iref npc 0 DC {iref}
mpb  npb npb vdd vdd plv W=4u L=1u    ; bottom diode -> vbias=npb=vdd-Vgs
mpc  npc npc npb vdd plv W=4u L=1u    ; stacked diode -> vcas=npc=vdd-2Vgs
mout oc  npb vdd vdd plv W=4u L=1u    ; output top device (mirror of mpb)
mcas out npc oc  vdd plv W=4u L=1u    ; cascode device (gate=npc)
.ends isrc_v5_pmos_cascode

* ---- V6: PTAT constant-gm (beta-multiplier) reference, NMOS SINK, ~1.5uA ----
*   self-biased; sized toward weak inversion so dVgs ~ n*kT/q*ln(K) -> I ~ PTAT.
*   archetype for IBP_PTAT_TUNE_1P5U_VCO (linear-in-absolute-T).
.subckt isrc_v6_ptat vdd out rs=600k wout=150u
* self-biased constant-gm core: PMOS mirror (gates=n2) forces I(n1)=I(n2);
* NMOS gates common=n1; M2 is K=8x wide with SOURCE-degeneration Rs ->
*   I*Rs = Vgs(M1)-Vgs(M2) = dVgs ~ n*(kT/q)*ln(K)  => I ~ PTAT.
mp1 n1 n2 vdd vdd plv W=8u L=2u
mp2 n2 n2 vdd vdd plv W=8u L=2u
mn1 n1 n1 0  0  nlv W=10u L=2u
mn2 n2 n1 ns 0  nlv W=80u L=2u
Rs  ns 0 {rs}
* startup: weak leak so the all-off (I=0) state is not the solver's solution
Rstart vdd n1 500meg
* output mirror off the NMOS gate node n1
mout out n1 0 0 nlv W={wout} L=2u
.ends isrc_v6_ptat

* ---- V7: resistor-biased NMOS SINK (no ideal Iref), ~1.2uA -----------------
*   Iref=(vdd-Vgs)/Rref -> STRONG dIout/dVdd (POOR, positive-sign PSRR);
*   CTAT-leaning tempco.  The PSRR-sign / supply-pushing outlier (G4/G8).
.subckt isrc_v7_nmos_rbias vdd out rref=520k
Rref vdd nd {rref}
m1   nd  nd 0 0 nlv W=3u L=1u
mout out nd 0 0 nlv W=3u L=1u
.ends isrc_v7_nmos_rbias

* ---- V8: Wilson NMOS SINK, ideal Iref, ~0.6uA ------------------------------
*   feedback-boosted rout (3-transistor Wilson); distinct PSRR/noise signature.
.subckt isrc_v8_wilson vdd out iref=0.6u
Iref vdd nin DC {iref}
mw1 nin nd  0   0 nlv W=2u L=1u       ; input device, drain=nin
mw2 nd  nd  0   0 nlv W=2u L=1u       ; diode reference, sets nd
mw3 out nin nd  0 nlv W=2u L=1u       ; output device (Wilson cascode)
.ends isrc_v8_wilson

* ============================================================
* ADVERSARIAL OVERFIT-PROBE current-source DUTs (round 3)
*   B1 inflect_ctat_ptat   : U/inflected Idc(T) -> 3-temp line misses interior (HELDOUT_IDC_TEMPS)
*   B2 double_cascode_2zero: TWO separated output-admittance zeros (single zero-pole can't hold)
*   B3 bias_dependent_psrr_flip: dIout/dVdd SIGN flips across compliance (single-vc gdd blind)
*   B4 tempload_xterm      : compliance KNEE moves with T while Idc@vc flat (broken separability)
* See HANDOFF_ADVERSARIAL_OVERFIT_PROBE.md / isrc_variants.py. Built+vetted 2026-06-25.
* ============================================================

* adversarial overfit probe DUT B1: U-shaped / inflected Idc(T)
* PTAT beta-mult branch (rises ~linearly with T) summed with a FIXED-Vgs
* weak-inversion NMOS (Isub ~ Vt^2 * exp((Vgs-Vth)/nVt), strongly CONVEX/
* super-linear in T) so the SUM bends -> 3-pt line misses 25C/85C by >5%.
.subckt isrc_inflect_ctat_ptat vdd out
* ---- PTAT beta-multiplier core (I*Rs = dVgs, PTAT) ----
mp1 n1 n2 vdd vdd plv W=8u L=2u
mp2 n2 n2 vdd vdd plv W=8u L=2u
mn1 n1 n1 0  0  nlv W=10u L=2u
mn2 n2 n1 ns 0  nlv W=80u L=2u
Rs  ns 0 600k
Rstart vdd n1 500meg
* PTAT output mirror -> sinks out (RISES ~linearly with T)
mout_ptat out n1 0 0 nlv W=80u L=2u
* ---- weak-inversion fixed-Vgs branch (strongly convex in T) ----
* hold the gate at a fixed sub-Vth voltage via a resistor divider off vdd
Rg1 vdd ng 40meg
Rg2 ng 0  11meg
mout_sub out ng 0 0 nlv W=12u L=2u
.ends isrc_inflect_ctat_ptat

* ---- B2: DOUBLE-CASCODE (triple-stacked) NMOS SINK, two output-admittance zeros
*   A 3-high output stack mout/mcas1/mcas2 gives gm*ro^3 (very high rout). The two
*   internal high-Z cascode source nodes (n_a lower, n_b upper) each contribute a
*   zero in Y(s)=i(out)/v(out). Small node caps Cm (lower) / Co (upper) place the
*   two zeros ~1.5 decades apart. Gate rails from a 3-diode bias stack off Iref.
*   Idc ~0.8-1uA sink, very high rout. Adversarial: g0*(1+s/wz)/(1+s/wp)+sCp
*   (single zero) cannot fit TWO separated zero corners.
.subckt isrc_double_cascode_2zero vdd out iref=1.0u cm=8p co=300f
* --- 3-diode bias stack: three gate rails vb1<vb2<vb3 ---
Iref vdd vb3 DC {iref}
md3  vb3 vb3 vb2 0 nlv W=2u L=1u      ; top diode    -> vb3 (gate of mcas2)
md2  vb2 vb2 vb1 0 nlv W=2u L=1u      ; mid diode    -> vb2 (gate of mcas1)
md1  vb1 vb1 0   0 nlv W=2u L=1u      ; bottom diode -> vb1 (gate of mout)
* --- triple-stacked output sink: out -> n_b -> n_a -> gnd ---
mout  n_a vb1 0   0 nlv W=2u L=1u     ; bottom device, gate=vb1
mcas1 n_b vb2 n_a 0 nlv W=2u L=1u     ; first cascode, gate=vb2, source n_a
mcas2 out vb3 n_b 0 nlv W=2u L=1u     ; second cascode, gate=vb3, source n_b
* --- small node caps set the two zero corners ~1.5 decades apart ---
Cm n_a 0 {cm}                         ; lower internal node -> lower zero
Co n_b 0 {co}                         ; upper internal node -> upper zero
.ends isrc_double_cascode_2zero

* ============================================================
* ADVERSARIAL probe DUT: isrc_bias_dependent_psrr_flip  (B3 target)
*
* LF dIout/dVdd (supply coupling) FLIPS SIGN across compliance:
* one sign at Vo=0.3, ~0 near Vo=0.5, opposite sign at Vo=0.7.
*
* MECHANISM = two competing supply-coupling paths:
*   PATH A (resistor-to-vdd NMOS mirror): Rref from vdd sets the gate of the
*     NMOS sink. Vdd up -> gate up -> mout pulls MORE from out -> one sign of
*     dIout/dVdd. Vo-INDEPENDENT coupling (dominant at LOW Vo).
*   PATH B (PMOS aux sourcing INTO out, gate from an out-divider): a PMOS pushes
*     current FROM vdd INTO out -> REDUCES the net sunk current -> OPPOSITE sign.
*     Its gate is set by a divider from `out`, so as Vo rises the PMOS Vsg/headroom
*     grows and its supply coupling OVERTAKES path A, inverting the net sign.
* Both devices stay in saturation across Vo=0.3..0.7 -> a real competing-path
* flip, not a knee artifact.  Sink, Idc ~1-1.5uA.
* ============================================================
.subckt isrc_bias_dependent_psrr_flip vdd out rref=520k rtop=2.3meg rbot=3meg
* --- PATH A: resistor-to-vdd biased NMOS sink (Vo-independent supply coupling) ---
Rref vdd nd {rref}
m1   nd  nd 0 0 nlv W=3u L=1u
mout out nd 0 0 nlv W=3u L=1u
* --- PATH B: PMOS aux sources INTO out; gate from out-divider (grows with Vo) ---
Rtop vdd ng {rtop}
Rbot ng  out {rbot}
maux out ng vdd vdd plv W=6u L=1u
.ends isrc_bias_dependent_psrr_flip

* adversarial overfit probe DUT B4: temperature x compliance CROSS-TERM
* (broken separability of Idc(T,Vo)).
*
* TARGET (crossval_isrc.gate_iv_temps): the GT compliance KNEE (0.5*plateau Vo
* crossing) MOVES with temperature > 40 mV across the fit temps WHILE a separable
* model [tempco(T)@vc x nominal IV-shape(Vo)] mis-predicts the near-knee window by
* > 5%.  A temp-independent Vknee/g0 behavioral model cannot bend -> B4 exposed.
* The headline ptat_err@vc stays clean (the model fits Idc(T)@vc), so the scalar
* PASS gate is fooled while I(Vo,T) is wrong on the load line.
*
* MECHANISM (two parallel NMOS sinks summed at `out`):
*  (B) PTAT-biased output device with HEAVY PTAT SOURCE DEGENERATION (Rsout carries
*      the device's PTAT current).  Its Vds,sat = Vov + I_ptat(T)*Rsout, so its
*      compliance knee CLIMBS strongly with T (cold saturates at low Vo -> wide
*      compliance; hot the knee climbs -> compliance narrows).  This branch sets the
*      lower half of the IV, so the composite 0.5*plateau knee tracks its T-climb.
*  (A) HIGH-rout ideal-Iref CASCODE sink fills the plateau with a milder tempco,
*      diluting the bare-PTAT mid-range ratio (~1.6) down to a more benign ~1.3 at
*      vc=0.5 without filling the low-Vo knee region (so the moving knee survives).
*
* Net (vc=0.5): Idc ~ 1.4/1.7/1.9 uA (-40/55/125C), ratio ~1.32; the compliance
* knee moves ~0.056 -> 0.106 V (dVk ~ 47 mV > 40); near-knee separable-model error
* ~19% (>> 5).  Idc target ~1.5-1.8 uA, sink.
*
* All device geometries are LITERALS (BSIM3 OP convergence); requires nlv/plv.
.subckt isrc_tempload_xterm vdd out rsout=320k iref=0.7u
* ---- PTAT beta-multiplier core (I*Rs = dVgs ~ PTAT) ----
mp1 n1 n2 vdd vdd plv W=8u L=2u
mp2 n2 n2 vdd vdd plv W=8u L=2u
mn1 n1 n1 0  0  nlv W=10u L=2u
mn2 n2 n1 ns 0  nlv W=80u L=2u
Rs  ns 0 600k
Rstart vdd n1 500meg
* ---- (B) PTAT sink with heavy PTAT source degeneration -> climbing 0.5-plateau knee
mpm  ndp n2 vdd vdd plv W=1700u L=2u   ; multiply core current -> PTAT diode bias ndp
m1p  ndp ndp 0 0 nlv W=4u L=1u
mout out ndp nsrc 0 nlv W=400u L=1u     ; degenerated output device
Rsout nsrc 0 {rsout}                     ; PTAT current * Rsout -> Vds,sat (knee) climbs w/ T
* ---- (A) ideal-Iref cascode sink fills the plateau, milder tempco (dilutes the ratio)
Iref vdd nc DC {iref}
mcd  nc  nc nd2 0 nlv W=2u L=1u
mb   nd2 nd2 0  0 nlv W=2u L=1u
mob  od  nd2 0  0 nlv W=2u L=1u
mca  out nc  od 0 nlv W=2u L=1u
.ends isrc_tempload_xterm
